US06559145B2
N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)-1-benzothiophene-5-carboxamide [BI.6, X=Cl].
A mixture of N-(4-chlorobenzyl)-4-hydroxy-1-benzothiophene-5-carboxamide (Preparation 14, 0.15 g), 4-methylenemorpholin4-ium chloride (0.13 g), and anhydrous acetonitrile (5 mL) is heated at reflux for 2 hours. Upon cooling, a saturated solution of sodium bicarbonate is added until the pH=9 and this solution is partitioned between ethyl acetate (50 mL) and water (50 mL). The organic layer is washed with brine, dried over Na2SO4, filtered, and concentrated to give a pink oil. Chromatography on a Biotage column eluting with 20% ethyl acetate in heptane (250 mL) and 50% ethyl acetate in heptane (500 mL) affords 140 mg (76%) of the title compound as a white solid. Physical characteristics: Mp 200° C.; MS (ESI+) for C21H21ClN2O3S m/z 417 (M+H)+.

reactant | N-(4-chlorobenzyl)-4-hydroxy-1-benzothiophene-5-carboxamide | 0.15 g | ClC1=CC=C(CNC(=O)C=2C=CC3=C(C=CS3)C2O)C=C1 | C16H12ClNO2S
reactant | 4-methylenemorpholin4-ium chloride | 0.13 g | [Cl-].C=[N+]1CCOCC1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)-1-benzothiophene-5-carboxamide | 140 mg, 76% | ClC1=CC=C(CNC(=O)C=2C=CC3=C(C=C(S3)CN3CCOCC3)C2O)C=C1 | C21H21ClN2O3S
